US04164395
Di-(p-toluenesulfonyl)dimethylglyoxime
A mixture containing 70 ml of dioxane, 2.3 g (0.02 mole) of dimethylglyoxime, 3.8 g (0.02 mole) of p-toluenesulfonyl chloride and 2.0 g (0.02 mole) of triethylamine was stirred for several days at room temperature. Dioxane was then removed by evaporation under reduced pressure and the solid residue stirred in ice water. The slurry was filtered and the solid material (4.1 g) was dried in a vacuum oven. The solid had no definite melting point.

reactant | dimethylglyoxime | 0.02 mole, 2.3 g | CC(C(=NO)C)=NO | C4H8N2O2
reactant | p-toluenesulfonyl chloride | 0.02 mole, 3.8 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 0.02 mole, 2.0 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
product | Di-(p-toluenesulfonyl)dimethylglyoxime | C1(=CC=C(C=C1)S(=O)(=O)ON=C(C(=NOS(=O)(=O)C1=CC=C(C=C1)C)C)C)C | C18H20N2O6S2
